US05874431
2-(3-Amino-6-trifluoromethylsulphonyloxyphenyl)benzothiazole
2-(3-Azidophenyl)benzothiazole (1 g) was added in small portions (5×0.2 g) to a mixture of trifluoromethanesulphonic acid (4 ml), trifluoroacetic acid (5 ml) and triflucromethylacetic anhydride (1 ml) at 0° C. After evolution of nitrogen ceased, the mixture was stirred at 20° C. for 18 hours, basified with aqueous ammonia and the products extracted into ethyl acetate. The organic layer was washed with water, dried (MgSO4) and evaporated to give a gum which was separated on silica with hexane-ethyl acetate (6:4) as eluent. The product obtained was the title compound (70% yield). (Found: M+ 374. C14H9F3N2O3S2 requires MW 374). An in vitro assay of this compound against MCF-7 (wild type) cells gave an IC50 value of 50 nM which again indicates a useful level of activity.

reactant | 2-(3-Azidophenyl)benzothiazole | 1 g | N(=[N+]=[N-])C=1C=C(C=CC1)C=1SC2=C(N1)C=CC=C2 | C13H8N4S
reactant | trifluoromethanesulphonic acid | 4 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
product | 2-(3-Amino-6-trifluoromethylsulphonyloxyphenyl)benzothiazole | 70% yield | NC=1C=C(C(=CC1)OS(=O)(=O)C(F)(F)F)C=1SC2=C(N1)C=CC=C2 | C14H9F3N2O3S2
